US08193228B2
[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl][2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methanol
Step C, 1.5 N Hydrochloric acid (1 mL) was added to a solution of 4-(2,2-dimethylpropyl)-2-{hydroxy[2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide in tetrahydrofuran (1 mL). After heating in a sealed tube at 70° C. for a few minutes until no further reaction (LCMS), the reaction mixture was cooled to 0° C., quenched with 10% aqueous sodium hydroxide and extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Preparatory plate chromatography eluting with 10% methanol/ethyl aceate afforded the title compound. LCMS: 440 (M+H).

reactant | Hydrochloric acid | 1.5 N, 1 mL | Cl | ClH
reactant | 4-(2,2-dimethylpropyl)-2-{hydroxy[2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C1(SCCCS1)C1=CC=C(C=C1)C1=NC=CC=C1)O)(C)C | C26H34N4O3S3
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | [4-(2,2-dimethylpropyl)-1H-imidazol-2-yl][2-(4-pyridin-2-ylphenyl)-1,3-dithian-2-yl]methanol | CC(CC=1N=C(NC1)C(O)C1(SCCCS1)C1=CC=C(C=C1)C1=NC=CC=C1)(C)C | C24H29N3OS2
